US07045539B2
tert-Butyl-chloro-silane (0.25 ml) was added to a mixture of 2-bromo-4-methoxy-6-nitro-phenol (0.124 g), chromium (II) chloride (0.012 g) and manganese (0) powder (0.137 g) in dimethylformamide (3 mL). The mixture was subjected to microwaves for 4 min at 150° C. Benzaldehyde (0.06 mL) was added and the reaction was subjected to microwaves for 6 min at 150° C. Water (0.5 mL) was added, then after 30 min the mixture was filtered through a pad of celite. The above procedure was repeated three more times. The combined filtrate was partitioned between dilute aq. HCl (100 mL) and ethyl acetate (100 mL). The organic layer was dried over sodium sulfate, filtered through celite and concentrated. Chromatography on silica gel (eluant: gradient 0 to 30% ethyl acetate:hexane) afforded 7-bromo-5-methoxy-2-phenyl-benzooxazole (0.13 g). MS: 304 (95%), 306.4 (100%) (MH+); HPLC tR: 2.79 min.

reactant | tert-Butyl-chloro-silane | 0.25 ml | C(C)(C)(C)[SiH2]Cl | C4H11ClSi
reactant | 2-bromo-4-methoxy-6-nitro-phenol | 0.124 g | BrC1=C(C(=CC(=C1)OC)[N+](=O)[O-])O | C7H6BrNO4
reactant | Benzaldehyde | 0.06 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | Water | 0.5 mL | O | H2O
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
catalyst | chromium (II) chloride | 0.012 g | [Cl-].[Cr+2].[Cl-]
catalyst | manganese (0) | 0.137 g | [Mn] | Mn
product | 7-bromo-5-methoxy-2-phenyl-benzooxazole | 0.13 g | BrC1=CC(=CC=2N=C(OC21)C2=CC=CC=C2)OC | C14H10BrNO2
